US04327215
2,8-Bis-(trifluoromethyl)-quinoline-4-carboxylic acid
A mixture of 100 parts by volume of water, 9.6 parts of sodium hydroxide, 43 parts of 7-trifluoromethylisatin and 26.8 parts of 1,1,1-trifluoroacetone is boiled for 6 hours, under atmospheric pressure, in a reaction vessel equipped with a stirrer, condenser, internal thermometer and feed device. The thin layer chromatogram of a sample taken after this reaction time and worked up with acid no longer shows any 7-trifluoromethyl-isatin. The batch is then allowed to cool, and 2 N hydrochloric acid is added, whilst stirring, until the pH is 2.5. The product which precipitates is washed with water and dried. 57 parts of 2,8-bis-(trifluoromethyl)-quinoline-4-carboxylic acid, ie. 92.2% of theory, are obtained.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 7-trifluoromethylisatin | FC(C=1C=CC=C2C(C(NC12)=O)=O)(F)F | C9H4F3NO2
reactant | 1,1,1-trifluoroacetone | FC(C(=O)C)(F)F | C3H3F3O
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | water | O | H2O
product | 2,8-Bis-(trifluoromethyl)-quinoline-4-carboxylic acid | FC(C1=NC2=C(C=CC=C2C(=C1)C(=O)O)C(F)(F)F)(F)F | C12H5F6NO2
